US08013181B2
To a solution of 50 g of 3-methoxy acetophenone in 250 ml of isopropyl alcohol charged 92 g of potassium carbonate and 46 g of hydroxylamine hydrochloride followed by heating the contents to about 60° C. and maintained for about 2 hours. The reaction mass is cooled to about 28° C., filtered the separated solid and washed with 100 ml of isopropyl alcohol. The resulting filterate was distilled under vacuum at about 55° C. to yield 58 g of 1-(3-methoxy-phenyl)-ethanone oxime.

reactant | 3-methoxy acetophenone | 50 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
reactant | potassium carbonate | 92 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 46 g | Cl.NO
solvent | isopropyl alcohol | 250 ml | C(C)(C)O | C3H8O
product | 1-(3-methoxy-phenyl)-ethanone oxime | 58 g | COC=1C=C(C=CC1)C(C)=NO | C9H11NO2
